US05162318
To 4-aminobenzonitrile (7.26 g) was added acetic anhydride (20 ml) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and the separated crystals were collected by suction, washed with water and dried under reduced pressure to give 9.40 g of 4-acetamidobenzonitrile.

reactant | 4-aminobenzonitrile | 7.26 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-acetamidobenzonitrile | 9.40 g | C(C)(=O)NC1=CC=C(C#N)C=C1 | C9H8N2O
